US07282501B2
Step G: 3-{2-(2-Amino-ethyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid methyl ester
A solution of 3-{2-(2-tert-butoxycarbonylamino-ethyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid methyl ester (0.90 g, 1.77 mmol) in CH2Cl2 (10 mL) at 0° C. was treated with TFA (5.0 mL) and water (0.2 mL). The resulting solution was allowed to warm gradually to ambient temperature. After 18 h, the mixture was concentrated. The residue was partitioned between CH2Cl2 (30 mL) and 5N NaOH (2 mL), and the aqueous layer was extracted with CH2Cl2 (3×30 mL). The combined organics were dried (K2CO3) and concentrated to a residue, which was purified by silica gel chromatography (CH2Cl2/MeOH/NH4OH, 8/2/0.05) to afford the title compound as a colorless oil (0.42 g, 58%). 1H NMR (400 MHz, CDCl3): δ 2.34 (s, 3H), 2.52 (t, 2H, J=7.8 Hz), 2.81 (t, 2H, J=7.8 Hz), 2.91 (t, 4H, J=6.4 Hz), 3.06 (t, 2H, J=7.3 Hz), 3.60 (s, 3H), 4.20 (t, 2H, J=6.8 Hz), 6.68 (br s, 1H), 6.71 (d, 1H, J=8.3 Hz), 7.01 (d, 1H, J=8.3 Hz), 7.37-7.39 (m, 3H), 7.89-7.92 (m, 2H).

reactant | 3-{2-(2-tert-butoxycarbonylamino-ethyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid methyl ester | 1.77 mmol, 0.90 g | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCNC(=O)OC(C)(C)C)=O | C29H36N2O6
reactant | TFA | 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 0.2 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{2-(2-Amino-ethyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid methyl ester | 0.42 g, 58% | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCN)=O | C24H28N2O4
